US04871472
0.012 m of DCC is added to 0.01 m of 4-pentylphenyl 3-chloro-4-hydroxybenzoate (obtainable by esterification of 3-chloro-4-hydroxybenzoic acid with 4-pentylphenyl with the addition of sulfuric acid and boric acid, J. org. Chem. Vol. 40 (1975) 2998), 0.012 m of 2-chloro-3-methylbutyric acid and 100 ml of methylene chloride at room temperature, with stirring. Further working up is carried out analogously to Example 3 to give 4-pentylphenyl 3-chloro-4-(2-chloro-3-methylbutyryloxy)-benzoate (optically active).

reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-pentylphenyl 3-chloro-4-hydroxybenzoate | ClC=1C=C(C(=O)OC2=CC=C(C=C2)CCCCC)C=CC1O | C18H19ClO3
reactant | 3-chloro-4-hydroxybenzoic acid | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | boric acid | B(O)(O)O | BH3O3
reactant | 2-chloro-3-methylbutyric acid | ClC(C(=O)O)C(C)C | C5H9ClO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-pentylphenyl 3-chloro-4-(2-chloro-3-methylbutyryloxy)-benzoate | ClC=1C=C(C(=O)OC2=CC=C(C=C2)CCCCC)C=CC1OC(C(C(C)C)Cl)=O | C23H26Cl2O4
